US04284642
1,3-Bis(2',6'-dimethylphenyl)-2-imino-imidazolidine-4-acetic acid
When the above product is allowed to stand at room temperature in ethyl acetate for 2 days, a transesterification reaction occurs, the ethyl 1,3-bis(2',6'-dimethylphenyl)-2-imino-imidazolidine-4-acetate, melting at 142°-144° C., is obtained.

reactant | ethyl 1,3-bis(2',6'-dimethylphenyl)-2-imino-imidazolidine-4-acetate | CC1=C(C(=CC=C1)C)N1C(N(C(C1)CC(=O)OCC)C1=C(C=CC=C1C)C)=N | C23H29N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-Bis(2',6'-dimethylphenyl)-2-imino-imidazolidine-4-acetic acid | CC1=C(C(=CC=C1)C)N1C(N(C(C1)CC(=O)O)C1=C(C=CC=C1C)C)=N | C21H25N3O2
